US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-tert-butyl-3,4 dihydronaphthalen-7-yl)-2-butenol (Compound A-55)
As described in General Procedure G-1, ethyl (2E)-2-fluoro-3-(4,4 dimethyl-6-ethoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenoate (Compound A-46, 0.037 g, 0.095 mmol) and diisobutylaluminum hydride (1.0 M in hexanes, 0.76 mL, 0.76 mmol) were reacted in THF (0.75 mL) to produce the title compound as an oil.

reactant | ethyl (2E)-2-fluoro-3-(4,4 dimethyl-6-ethoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenoate | 0.095 mmol, 0.037 g | F\C(\C(=O)OCC)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCC | C24H33FO3
reactant | diisobutylaluminum hydride | 0.76 mmol, 1.0 M, 0.76 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
product | (2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-tert-butyl-3,4 dihydronaphthalen-7-yl)-2-butenol | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCC | C22H31FO2
